US03994858
c. 1-Glycidyl-3-(diethoxyphosphonoethyl)-5-ethyl-5-methyl-hydantoin
61.2 g of 3-(diethoxyphosphonoethyl)-5-ethyl-5-methyl-hydantoin (0.2 mol), 277.5 g of epichlorohydrin (3.0 mols) and 0.2 g of tetramethylammonium chloride are stirred for 90 minutes at 115° - 119° C. The mixture is then cooled to 60° C and 17.6 g of 50% strength aqueous sodium hydroxide solution are added dropwise over the course of 4 hours whilst stirring, under a waterpump vacuum. The water present in the mixture is removed by azeotropic circulatory distillation analogously to Example 1 (c). The mixture is worked up analogously to Example 1 (c) and 65.7 g of a yellow, clear, viscous resin (90.6% of theory) having an epoxide content of 2.71 epoxide equivalents/kg (96.7% of theory) are obtained. The product contains 0.65% of chlorine and 6.72% of phosphorus.

reactant | 3-(diethoxyphosphonoethyl)-5-ethyl-5-methyl-hydantoin | 0.2 mol, 61.2 g | C(C)OOP(=O)(OOCC)CCN1C(NC(C1=O)(C)CC)=O | C12H23N2O7P
reactant | epichlorohydrin | 3.0 mols, 277.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | phosphorus | [P] | P
catalyst | tetramethylammonium chloride | 0.2 g | [Cl-].C[N+](C)(C)C
solvent | water | O | H2O
product | 1-Glycidyl-3-(diethoxyphosphonoethyl)-5-ethyl-5-methyl-hydantoin | C(C1CO1)N1C(=O)N(C(=O)C1(C)CC)CCP(=O)(OOCC)OOCC | C15H27N2O8P
